Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
CC: ___ edema, dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ with a history of obesity, hyperthyroidism (Graves
disease) presenting from clinic for eval of possible thyroid
storm.  
 
She returned from a cruise one month ago with leg swelling and
dizziness. These have progressed over the last month despite
negative DVT/PE w/u in ED 3 weeks ago and ENT evaluation of
dizziness suggesting cervogenic headache. She also describes a
sensation of being jittery x2 weeks. Her dizziness feels like
unsteadiness ("like if you're drunk, but I've never fallen from
it"), not vertigo or lightheadedness. It is worst at ___ pm
everyday after eating late breakfast or lunch. She was taken off
of methimazole sometime during the ___, as instructed by her
endocrinologist at ___. At PCP today, she had TSH 0.02 and T4
24.4 also with tachycardia and ?PVCs on EKG. She has been having
nausea and diarrhea intermittently after eating. She describes
headaches associated with dizziness, temporal, not affected by
chewing, "nagging, dull" pain, relieved by advil. She is not
feeling confused although has noticed some problems with short
term memory, but without frank confusion. She endorses 
subjective
fevers, chills, diaphoresis, which she has attributed to
menopause. She had several evenings of myalgias, "like I had the
flu." ___ edema is symmetric, painful at lateral, dorsal aspect 
of
bilateral feet. 

Of note, pt has been followed by Dr. ___ (endocrine)
at ___. Thyrotropin binding Ig positive (7) on ___.

 In the ED, initial VS were:  
 Temp 96.0 HR 111 BP 151/64 RR 20 02 99% RA  
 
 Exam notable for: Occasional early beats, no m/r/g, no tremor  
 ECG: Sinus rhythm, HR 106, normal axis, normal intervals, no ST
changes  
 Labs showed:  
 WBC: 5.1 Hgb 11.2 plt 218  
 BMP: Na 140, K 4.0 CL 100 HC03 24 BUN 15 Cr. 0.6  
 ATRIUS Thyroid LABS:  
 ___: TSH 0.02|T3 47|T4 24.4 (normal < 12.8)| Free T3 342
(N<178)  
 ___: TSH .62| T4 10.8| T3 32|  
 ___: TSH 1.92| T4 10.3| T3 35|  
 Imaging showed: none  
 Consults:  
 Patient received:  
 - Propranolol 40 mg  
 - Hydrocortisone Na Succ. 100 mg  
 - PO Cholestyramine 4 gm  

On arrival to the floor, denies dizziness, headaches. Bilateral
___ edema persists, which is uncomfortable. 

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI
 
Past Medical History:
Herpes progenitalis  
___ Ruptured Ectopic@___ surgery.  
PAROXYSMAL SUPRAVENTRICULAR TACHYCARDIA(aka TACHYCARDIA)  
Adenomyosis  
Prediabetes  
Essential hypertension  
Hyperthyroidism  
 
Social History:
___
Family History:
stomach cancer -aunt/grandmother
 
Physical ___:
ADMISSION:
==========
VS: ___ 0303 Temp: 97.6 PO BP: 141/71 HR: 101 RR: 18 O2 
sat:
97% O2 delivery: Ra 
GEN: obese female, delightful, alert and interactive,
comfortable, no acute distress
HEENT: PERRL, , no proptosis, anicteric, conjunctiva pink,
oropharynx without lesion or exudate, moist mucus membranes, 
ears
without lesions or apparent trauma. No thyromegaly or thyroid
nodules appreciated.
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: obese, soft, nontender, without rebounding or guarding,
nondistended with normal active bowel
sounds, unable to assess for hepatomegaly ___ body habitus
EXTREMITIES: 1+ pitting edema bilaterally extending from dorsum
of bilateral feet to midshins, tenderness to palpation
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect

DISCHARGE:
==========
24 HR Data (last updated ___ @ 1154)
Temp: 97.8 (Tm 98.4), BP: 118/66 (93-141/57-85), HR: 89 
(85-104),
RR: 20 (___), O2 sat: 97% (96-100), O2 delivery: RA   
Orthostatics negative
GEN: obese female, NAD
HEENT: PERRL, no proptosis, anicteric, conjunctiva pink,
oropharynx without lesion or exudate, moist mucus membranes, 
ears
without lesions or apparent trauma. No thyromegaly or thyroid
nodules appreciated.
LYMPH: no anterior/posterior cervical/supraclavicular adenopathy
CARDIOVASCULAR: RRR, nl S1, S2, no m/r/g, JVP flat
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: obese, soft, nontender, without rebounding or guarding,
nondistended with normal active bowel sounds, unable to assess
for hepatomegaly ___ body habitus
MSK: lower extremities warm, 1+ pitting edema bilaterally
extending from dorsum of bilateral feet to midshins, mild
tenderness to palpation
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, ___ strength all extremities, sensation grossly intact
throughout, gait not tested, no tremors
PSYCH: normal mood and affect
 
Pertinent Results:
ADMISSION:
==========
___ 08:02PM BLOOD WBC-5.1 RBC-3.81* Hgb-11.2 Hct-34.2 
MCV-90 MCH-29.4 MCHC-32.7 RDW-12.1 RDWSD-39.2 Plt ___
___ 08:02PM BLOOD Glucose-101* UreaN-15 Creat-0.6 Na-140 
K-4.0 Cl-100 HCO3-24 AnGap-16
___ 08:02PM BLOOD ALT-25 AST-31 AlkPhos-45 TotBili-0.7
___ 08:02PM BLOOD proBNP-301*
___ 06:39AM BLOOD Calcium-9.2 Phos-4.4 Mg-1.6
___ 08:02PM BLOOD T4-20.8* T3-451* calcTBG-0.34* 
TUptake-2.94* ___
___ 06:39AM BLOOD Free T4-7.0*

DISCHARGE:
===========
WBC 5.3, Hgb 10.9 (from 10.2), Plt 239
Na 137, K 4.2, BUN 17, Cr 0.7, HCO3 19, AG 16
BNP 301

TSI: pending

Prior: 
FT4 7.0
T4 index ___, T4 20.8, T3 451
LFTs WNL

ATRIUS Thyroid LABS:  
___: TSH 0.02|T3 47|T4 24.4 (normal < 12.8)| Free T3 342
(N<178)  
___: TSH .62| T4 10.8| T3 32|  
___: TSH 1.92| T4 10.3| T3 35|  

UA (___): neg bld, neg ___, 6 RBCs, 3 WBCs, few bact

UCx (___): mixed flora

IMAGING:
========
Telemetry (___): ~3 seconds of SVT at 150 bpms
Telemetry (___): 3 episodes of brief SVT with HRs to 150

EKG (___): Sinus tachycardia at 106, leftward axis, normal
intervals, TW flattening in III, V2, no ST segment changes.
Compared to prior, tachycardia is new, otherwise unchanged.

Prior data:
___ CTA CHEST:  
No evidence of pulmonary embolism or acute aortic abnormality.  
 
___ ___ Bilateral:  
No evidence of deep venous thrombosis in the right or left lower
extremity veins.  
 
TTE:  
Echo ___  
1. This was a technically difficult study due to body habitus.
2D Color and spectral Doppler were performed.  
2. Left ventricular wall thickness is normal.  
3. There are no regional wall motion abnormalities.  
4. Overall left ventricular ejection fraction is normal, with an
estimated LVEF of ~55%.  
5. Compared with the findings of the prior report of ___
from ___, there is little change.  
 
Brief Hospital Course:
___ with a history of obesity, hyperthyroidism (Graves disease),
paroxysmal supraventricular tachycardia presenting from clinic
with headaches, dizziness, palpitations, and lower extremity
edema, likely secondary to thyrotoxicosis in setting of
methimazole discontinuation. 

# Dizziness:
# Palpitations:
# Headaches:
# Peripheral edema:
# Thyrotoxicosis: 
# Hx of Graves disease:
Patient has a hx of Graves disease, followed by Dr. ___
endocrinology at ___. She was previously titrated off
methimazole, with recurrence of her Graves symptoms. Given nl
thyroid studies in ___, she was again titrated off her
methimazole over the ___. Shortly afterwards, she developed
progressive lower extremity edema, headaches, dizziness, and
palpitations. ED evaluation ___ was negative for DVTs or 
PE.
She was subsequently seen at ___ on ___, at which time labs
were consistent with hyperthyroidism (TSH 0.02|T3 47|T4 24.4
(normal < 12.8)| Free T3 342). She was referred to the ED given
c/f thyroid storm, where she received hydrocortisone,
cholestyramine, and propranol. She was admitted and followed by
endocrinology, who felt that all of her symptoms and objective
data were consistent with thyrotoxicosis in the absence of clear
thyroid storm (given limited lower extremity edema, lack of
fever, and no clear central neurologic symptoms/signs). No focal
neurologic deficits to argue for a central etiology for her
headaches and dizziness, orthostatics negative, and no overt
signs/symptoms of heart failure other than lower extremity edema
(BNP only mildly elevated at ~300 in absence of elevated JVP or
pulmonary edema; TTE ___ WNL). She received 4 doses of
methimazole 20mg in the first 24h and was tapered to 20mg daily
at discharge. Propranolol was initiated at 20mg q6h, titrated to
30mg q8h prior to discharge, with improvement in her 
jitteriness,
resting tachycardia, and paroxysmal SVT (se below).
Hydrocortisone and cholestyramine were not continued on
admission. TSI was pending at discharge. Endocrinology has
communicated with Dr. ___ to arrange repeat labs later this
week, and patient has appointment with Dr. ___ for
___. Further titration of her propranolol and methimazole were
deferred to Dr. ___. She received one dose of Lasix for 
lower
extremity and edema and was discharged on her home HCTZ 12.5mg
daily with instructions to use compression stockings and 
elevated
legs. Should her lower extremity edema not improve with 
treatment
of thyrotoxicosis, would consider repeat TTE to assess for new
thyrotoxicosis-induced heart failure. 

# Resting tachycardia:
# Paroxysmal supraventricular tachycardia:
Patient with known PSVT diagnosed at ___ in ___ during
presentation for ectopic pregnancy. She was briefly followed by
___ cardiology, last ___, and has been off medications since.
Patient had resting tachycardia on admission, likely due to
hyperthyroidism (CT PE negative ___. Telemetry demonstrated
at least 3 episodes of what appears to be paroxysmal
supraventricular tachycardia, with no evidence of pre-excitation
on EKG, likely exacerbated by thyrotoxicosis as above. No clear
association with patient's reports of dizziness. TTE ___ WNL.
Propranolol was initiated and titrated to 30mg q8h on discharge
with improvement in frequency of SVT and resting tachycardia. 
She
should f/u with her PCP for consideration of referral to ___
cardiology as outpatient. 

# Hypertension:
Patient was largely normotensive this admission. HCTZ was
initially held in setting of propranolol initiation and was
resumed prior to discharge. She was encouraged to check her 
blood
pressures daily at home with her home cuff and notify her
outpatient providers for SBPs <100, at which point would 
consider
holding home HCTZ.

** TRANSITIONAL **
[ ] endocrine to arrange repeat thyroid studies this week; f/u
appt with Dr. ___ for ___
[ ] f/u TSI, pending at discharge
[ ] titrate propranolol and methimazole
[ ] assess lower extremity edema on home HCTZ; if no improvement
with treatment of thyrotoxicosis, would consider repeat TTE to
assess for new heart failure
[ ] consider cardiology referral for paroxysmal SVT

# Contacts/HCP/Surrogate and Communication: Husband ___
# Code Status/ACP: presumed Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 
2. Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID:PRN 
chest tightness 

 
Discharge Medications:
1.  Methimazole 20 mg PO DAILY 
RX *methimazole 10 mg 2 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Propranolol 30 mg PO Q8H 
RX *propranolol 10 mg 3 tablet(s) by mouth every 8 hours Disp 
#*270 Tablet Refills:*0 
3.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID:PRN 
chest tightness  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Thyrotoxicosis
Graves disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for hyperthyroidism, likely 
from your Graves disease and discontinuation of your 
methimazole. Methimazole was resumed, and you were started on a 
new medication called propranolol to control your fast heart 
rate and jitteriness. Please continue these medications until 
you see Dr. ___ on ___. The clinic should call you about 
repeating your thyroid tests prior to that appointment.

Please check your blood pressure and heart rate at home daily 
and keep a log for your doctors. If your systolic blood pressure 
is less than 100 or your heart rate is <60 or >130, please call 
Dr. ___ or notify your primary care doctor.

It will be important for you to use compression stockings and 
elevate your legs to reduce the leg edema. You should also check 
your weights daily and notify your doctor if your weight 
increases by 3 lbs in 1 day or 5 lbs in 1 week. 

With best wishes,
___ Medicine
 
Followup Instructions:
___